*=========================================================
* DFFR async reset testbench with two-phase clocks @1600 Hz
* Single D pulse (wide enough to be captured)
*=========================================================

* Sky130A PDK (TT corner)
.lib /usr/local/share/pdk/sky130A/libs.tech/ngspice/sky130.lib.spice tt

* Your DFF with async reset
.include DFFR.spice

*---------------------------------------------------------
* Power supplies
*---------------------------------------------------------
VDD     VP      0      1.8
VSS     VN      0      0

*---------------------------------------------------------
* Two-phase non-overlapping clocks (1600 Hz, T = 625 us)
*---------------------------------------------------------
VPHIA   PHIA    0  PULSE(0 1.8 50n       10n 10n 312.4u 625u)
VPHIB   PHIB    0  PULSE(0 1.8 312.55u   10n 10n 312.4u 625u)

*---------------------------------------------------------
* Asynchronous active-low reset (RST_N)
*---------------------------------------------------------
VRST    RST_N   0  PULSE(0 1.8 1250u 10n 10n 99m 100m)

*---------------------------------------------------------
* D input stimulus — single wide pulse
*---------------------------------------------------------
* One pulse after reset is released:
*   - D stays 0 until 700 us
*   - Goes high for 1 ms (700 us → 1.7 ms)
*   - Returns to 0 and stays low for rest of sim
* PER is large so only one pulse happens within 3 ms.
VD      D       0  PULSE(0 1.8 700u 10n 10n 1m 10m)

*---------------------------------------------------------
* DUT instantiation
* Pin order: PHIA, PHIB, D, Q, RST_N, VP, VN
*---------------------------------------------------------
XDUT   PHIA PHIB D Q RST_N VP VN  DFFR

*---------------------------------------------------------
* Simulation control
*---------------------------------------------------------
.tran 1u 3m

.control
  run
  plot v(PHIA) v(PHIB)+2 v(D)+4 v(Q)+6 v(RST_N)+8
.endc

.end

